US04940710
A solution of 9.67 g of α-(ethoxymethylene)-2,4,5-trifluoro-β-oxobenzenepropanoic acid, ethyl ester in 70 ml of dry ether was cooled in an ice bath to 10° C. A 2.44 ml portion of cyclopropylamine was added dropwise, maintaining the reaction temperature at 10 to 11° C. When addition was complete the ice bath was removed, the mixture stirred at room temperature for 10 minutes and then evaporated, giving 10.02 g of α-[(cyclopropylamino)methylene]2,4,5-trifluoro-β-oxobenzenepropanoic acid, ethyl ester as an oil.

reactant | α-(ethoxymethylene)-2,4,5-trifluoro-β-oxobenzenepropanoic acid, ethyl ester | 9.67 g | C(C)OC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)F)F)=O | C14H13F3O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | ether | 70 ml | CCOCC | C4H10O
product | α-[(cyclopropylamino)methylene]2,4,5-trifluoro-β-oxobenzenepropanoic acid, ethyl ester | 10.02 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)F)F)=O | C15H14F3NO3
